US08039450B2
19ao 4-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-2-(2-morpholin-4-yl-2-oxo-ethoxy)-benzonitrile (D41)
Following the general procedure, morpholine (80 μL, 0.93 mmol) was coupled with [2-cyano-5-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-phenoxy]-acetic acid ((D39), 150 mg, 0.46 mmol) to give a crude oil containing (D41). Purification by reverse phase HPLC followed by lyophilization gave a white solid of (D41) (38 mg, 21%). 1H NMR 400 MHz (d6-DMSO) δ: 9.32 (br s, 1H), 7.86 (d, J=8.5 Hz, 1H), 7.78 (d, J=8.5 Hz, 1H), 7.21 (br s, 1H), 7.15 (dd, J=9.0, 1.5 Hz, 1H), 6.90 (d, J=1.5 Hz, 1H), 6.65 (dd, J=8.5, 1.5 Hz, 1H), 5.17 (s, 2H), 5.03 (s, 2H), 3.65-3.55 (m, 4H), 3.49-3.40 (m, 4H); MS (ES) m/z: 395 (M+H)+; HPLC purity 96.02% (Maxplot), 97.64% (220 nm) and 97.18% (254 nm).

reactant | morpholine | 0.93 mmol, 80 μL | N1CCOCC1 | C4H9NO
reactant | [2-cyano-5-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-phenoxy]-acetic acid | 0.46 mmol, 150 mg | C(#N)C1=C(OCC(=O)O)C=C(C=C1)OC1=CC2=C(B(OC2)O)C=C1 | C16H12BNO6
product | 4-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-2-(2-morpholin-4-yl-2-oxo-ethoxy)-benzonitrile | OB1OCC2=C1C=CC(=C2)OC2=CC(=C(C#N)C=C2)OCC(=O)N2CCOCC2 | C20H19BN2O6
